US05459171
3-(4-hydroxy-3,5-di-tert.-butylphenyl)-propionic acid-2-phenylethyl ester was prepared from 278 g (1 mol) of 3-(4-hydroxy-3,5-di-tert.-butylphenyl)-propionic acid and 122 g (1 mol) of 2-phenylethanol by azeotropic esterification in toluene with 0.5 g of 4-toluenesulfonic acid. The product was analyzed and the results of this analysis were as follows:

reactant | 3-(4-hydroxy-3,5-di-tert.-butylphenyl)-propionic acid | 1 mol, 278 g | OC1=C(C=C(C=C1C(C)(C)C)CCC(=O)O)C(C)(C)C | C17H26O3
reactant | 2-phenylethanol | 1 mol, 122 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | 4-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(4-hydroxy-3,5-di-tert.-butylphenyl)-propionic acid-2-phenylethyl ester | C1(=CC=CC=C1)CCOC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C25H34O3
